US08729112B2
4-methyl-4-(2,2,2-trifluoroethyl)oxazolidin-2-one
A solution of benzyl 4,4,4-trifluoro-1-hydroxy-2-methylbutan-2-ylcarbamate (830 mg, 2.85 mmol) in THF (55 ml) was cooled to 0° C., and 60% NaH in mineral oil (143 mg, 3.6 mmol) added in one portion. The suspension was stirred for 30 min, then warmed to RT and stirred for 24 h. AcOH (200 ul) added to quench the reaction, and the solution was concentrated in vacuo. The residue was purified by flash chromatography (5% to 20% CH3CN in DCM) to afford the title compound as a white solid (405 mg). 1H NMR (CDCl3, 400 MHz) δ 1.47 (s, 3H), 2.43-2.53 (m, 2H), 4.10 (d, J=8.8 Hz, 1H), 4.28 (d, J=8.8 Hz, 1H), 6.84 (s, 1H). 19F NMR (CDCl3, 376 MHz) δ −61.3 (t, J=10.9 Hz). 13C NMR (CDCl3, 100 MHz) δ 25.3, 43.0 (q, J=27.2 Hz), 55.0, 75.4, 125 (q, J=277.8 Hz), 158.7. LRMS (ESI/APCI): 184 [M+H]+, 225 [M+H+CH3CN]+.

reactant | benzyl 4,4,4-trifluoro-1-hydroxy-2-methylbutan-2-ylcarbamate | 2.85 mmol, 830 mg | FC(CC(CO)(C)NC(OCC1=CC=CC=C1)=O)(F)F | C13H16F3NO3
reactant | NaH | [H-].[Na+]
reactant | AcOH | 200 ul | CC(=O)O | C2H4O2
solvent | THF | 55 ml | C1CCOC1 | C4H8O
product | 4-methyl-4-(2,2,2-trifluoroethyl)oxazolidin-2-one | 405 mg | CC1(NC(OC1)=O)CC(F)(F)F | C6H8F3NO2
